US07148226B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-[(1-methyl-1H-benzimidazol-2-yl)methyl]dihydro-2H-pyran-2,4(3H)-dione
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione (127 mg, 0.362 mmol) was dissolved in a mixture of dimethoxy ethylene glycol (1.8 ml) and water (1.8 ml). The solution was heated to 80° C. Sodium carbonate (42.2 mg, 0.398 mmol) was then added to the mixture followed by 2-(chloromethyl)-1-methyl-1H-benzimidazole (42.2 mg, 0.398 mmol). The reaction mixture was stirred at 80° C. for 5 hrs, after which time the mixture was acidified to pH 5 and the product was extracted with ethyl acetate (3×25 ml). The combined organics were washed with brine (30 ml), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and purified by prep HPLC to afford the title compound as a white solid (13.5 mg).

reactant | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | 0.362 mmol, 127 mg | ClC=1C=C(C=CC1OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C19H23ClO4
reactant | Sodium carbonate | 0.398 mmol, 42.2 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(chloromethyl)-1-methyl-1H-benzimidazole | 0.398 mmol, 42.2 mg | ClCC1=NC2=C(N1C)C=CC=C2 | C9H9ClN2
solvent | dimethoxy ethylene glycol | 1.8 ml | COC(C(OC)O)O | C4H10O4
solvent | water | 1.8 ml | O | H2O
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-[(1-methyl-1H-benzimidazol-2-yl)methyl]dihydro-2H-pyran-2,4(3H)-dione | 13.5 mg | ClC=1C=C(C=CC1OC)CCC1(CC(C(C(O1)=O)CC1=NC2=C(N1C)C=CC=C2)=O)C2CCCC2 | C28H31ClN2O4
